US05693655
3-[1-(3-(indol-3-yl)propyl)-4-piperidyl]indole;
of 3-(3-chloropropyl)-5-methoxyindole with 4-(5-hydroxyindol-3-yl)piperidine:

reactant | 3-(3-chloropropyl)-5-methoxyindole | ClCCCC1=CNC2=CC=C(C=C12)OC | C12H14ClNO
reactant | 4-(5-hydroxyindol-3-yl)piperidine | OC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H16N2O
product | 3-[1-(3-(indol-3-yl)propyl)-4-piperidyl]indole | N1C=C(C2=CC=CC=C12)CCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C24H27N3
